2133-05-07 06:40:00 Physician Resident Progress Note
Chief Complaint: 79 y/o Russian-speaking M w/ DM, CRI, HTN,
   hyperlipidemia, lumbar stenosis s/p elective L3-S1 laminectomy/left
   L3-4 discectomy on [**5-4**] complicated by peri-op NSTEMI.
   24 Hour Events:
   SBP 90's
   CXR showed ?retrocardiac opacity, given leukocytosis, chills and
   hypotension started levofloxacin overnight
   Foley was d/c
   Pt became N/V after miralax this AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2133-5-6**] 10:47 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2133-5-7**] 06:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 92 (76 - 92) bpm
   BP: 88/42(59) {84/39(51) - 102/60(66)} mmHg
   RR: 14 (11 - 27) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  3,870 mL
                                                                    120 mL
   PO:
                                                                    120 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    100 mL
   Blood products:
   Total out:
                                                                    900 mL
                                                                    225 mL
   Urine:
                                                                    550 mL
                                                                    225 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,970 mL
                                                                   -105 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///22/
   Physical Examination
   GEN: NAD, weak and fatigued appearing
   HEENT: AT/NC, anicteric, PERRLA, EOMI, MMM
   NECK: no JVD
   CV: reg rate nl S1S2 no m/r/g
   PULM: poor inspiratory effort CTAB
   BACK: midline low back dressing c/d/i
   ABD: soft obese NTND typamic, normoactive BS
   EXT: warm, dry tr pedal edema
   NEURO: AA&O3, interacting appropriately, limited english, but able to
   communicate
   Labs / Radiology
   245 K/uL
   10.2 g/dL
   108 mg/dL
   1.9 mg/dL
   22 mEq/L
   36 mg/dL
   100 mEq/L
   131 mEq/L
   31.0 %
   9.7 K/uL
        [image002.jpg]
                             [**2133-5-7**]  03:54 AM
   WBC
   9.7
   Hct
   31.0
   Plt
   245
   Cr
   1.9
   Glucose
   108
   Other labs: PT / PTT / INR:14.5/30.6/1.3, Differential-Neuts:83.3 %,
   Lymph:9.8 %, Mono:5.9 %, Eos:0.7 %, Ca++:8.1 mg/dL, Mg++:2.1 mg/dL,
   PO4:2.6 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
   79 y/o Russian-speaking M w/ DM, CRI, HTN, hyperlipidemia, lumbar
   stenosis s/p elective L3-S1 laminectomy/left L3-4 discectomy on [**5-4**]
   complicated by peri-op NSTEMI.
   .
   # Hypotension: Occurred in setting of working w/ PT. SBPs remains at
   baseline in the 90
s. No sig change on ECHO to suggest new cardiac
   event.  Etiology includes ischemia given persistent ST depressions past
   few days versus hypovolemia versus infection versus autnomic
   dysfunction.  PE unlikely given no evidence on ECG and pt on
   anti-coagulation. Hypovolemia may be [**1-5**] decreased PO intake given
   nausea. Pt also with leukocytosis (trending down), chills, CXR w/
   ?retrocardiac opacity concerning for infection, but has been afebrile.
   Started levofloxacin 750mg last night.
    - repeat PA/Lat, cont levoflox for now, but can discontinue if CXR
   unrevealing
   - check orthostatics
   - limit physical exertion
   -recheck an ECG
   - f/u cultures
   - IVF prn
   - strict I/O
   - cont decreased metoprolol to 12.5mg TID
   - CAD mangement as below
   #CAD - peri-op NSTEMI (peak CK 4918 MB 74 on [**5-4**]), Pt unable to receive
   anticoag w/ heparin/plavix given post-op from neuro surgery procedure.
   (contraindicated x 1 week post-op). The patient was started on ASA
   325mg and BB titrated up. ok); Deferred cardiac cath and risk for
   periprocedural complication that could warrant anticoagulation; ECHO
   showed more prominent basal inferior hypokinesis
   - cont full-dose ASA, high-dose statin
   - decrease metorprolol to 12.5 TID for now given hypotension
   - obtain outpatient reports
   .
   #PUMP - preserved systolic fxn & no WMA on TTE [**5-4**]. euvolemic on exam.
   -cont monitor for s/sx CHF while giving IVF
   .
   #RHYTHM - SR, no known h/o arrhythmia
   -telemetry
   .
   #N/V: Pt vomited after taking miralax for BM regimen.  Pt also reports
   no BM since prior to surgery. Possible ileus from narcotics. Also
   concern for obstruction.
   - KUB to r/o obstruction
   - Zofran for nausea
   - limit narcotics
   - cont aggressive bowel regimen pending KUB if no obstruction
   .
   #s/p lumbar spine surgery - pain well-controlled
   -appreciate neurosurg involvement
   -cont gabapentin
   -standing tylenol
   -oxycodone prn
   .
   #CRI - Cr 1.9 today and stable from yesterday. Could be attributable to
   volume depletion/prerenal azotemia given exam &
   hyponatremia/hypochloremia
   - IVF  as above
   - urine lytes
   - avoid NSAIDs
   - renally dose meds and avoid nephrotoxins
   .
   #DM - well-controlled
   -cont basal NPH and Novolin, sliding scale insulin
   .
   #HTN - BP well-controlled
   -decrease metoprolol to 12.5mg for now given hypotension
   - hold imdur
   -hold HCTZ to allow room for uptitration of BB
   .
   #BPH
   -cont finasteride
   .
   #F/E/N
   -HH/DM diet
   .
   #PPx - SQH, PPI, bowel regimen
   .
   #Code status - FULL CODE
   .
   #Contact: [**Name (NI) 6417**] (Son) [**Telephone/Fax (1) 6418**] (C)/ [**Telephone/Fax (1) 6419**] (home)
   .
   DISPO: CCU for now
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). ccu admit note from [**2133-5-6**].
   I would add the following remarks:
   History
   nothing to add
   Physical Examination
   nothing to add
   Medical Decision Making
   nothing to add
   Total time spent on patient care: 45 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 862**] [**Name (NI) 3213**],MD
   on:[**2133-5-7**] 08:41 ------

2133-05-08 14:06:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Code Blue, ? PEA arrest vs. VasoVagal Episode
   24 Hour Events:
 CALLED OUT
   -Patient initially transferred to on the evening of [**5-6**] for hypotension
   to the 80s that was initially responsive to IVF, following IVF, SBP
   then dropped to the high 70's despite NS boluses.  EKG appeared
   unchanged from prior but did show stable diffuse ST depressions in
   V3-V6, I, II, aVL, aVF.   Repeat TTE while in the CCU showed focal
   basal inferior hypokinesis, mild-mod TR & MR, trivial/physiologic
   pericardial effusion. Adjustment to meds: Lopressor decreased to 12.5
   mg TID, imdur d/c'd.  SBP imprpoved and remained in 90's during CCU
   course without need for vasopressor therapy.  CXR demonstrated possible
   retrocardiac opacity and patient started levofloxacin for possible
   PNA.  Given patient's improvement in BP, pt was transferred to
   cardiology floor for continued care.
   -At ~ noon on [**5-8**], patient was found down on the ground by nursing
   staff, and was reported in the restroom just prior to being found
   unresponsive.  No pulse was palpable and telemetry strip demonstrated a
   slow, possible junctional rhythm.  Chest compressions were initiated,
   and shortly thereafter the patient was noted to be in sinus
   tachycardia.  No shocks or intravenous medications were administered.
   The patient was intubated for airway protection, and brought to the CCU
   for further care.
   -Repeat 12-lead EKG shows continued ST depressions in the same
   distribution as prior.
   -Bedside TTE showed new, worsened inferior/posterior WMA.
   -ABG on arrival was: 7.4/40/65 on AC 16/550/5/100%, Lactate 4.3, K
   4.4.
   -CXR showed: prelim read - pulmonary edema, no obvious infiltrates, and
   borderline widened mediastinum.
   -Bilateral LE dopplers ordered
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2133-5-6**] 10:47 PM
   Infusions:
   Versed gtt
   Fentanyl gtt
   Other ICU medications:
   Other medications:
   Home Medications:
   ASA 81 mg daily
   Neurontin 800mg TID
   Novolin 70-30 70-30 U/ml 58 units a day
   Lipitor 80mg daily
   HCTZ 25mg qAM, 12.5 mg QPM
   Dicyclomine Hcl 20mg
   Protonix 40mg daily
   Tramadol Hcl 50mg
   Ambien 5mg as needed
   Proscar 5mg daily
   Percocet 5/325mg q6h prn pain
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2133-5-8**] 02:05 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 117 (73 - 117) bpm
   BP: 136/85(96) {88/43(55) - 136/85(96)} mmHg
   RR: 16 (12 - 28) insp/min
   SpO2: 88%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                    480 mL
                                                                      2 mL
   PO:
                                                                    480 mL
             TF:
   IVF:
   2 mL
   Blood products:
   Total out:
                                                                    835 mL
                                                                      0 mL
   Urine:
                                                                    835 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -355 mL
                                                                      2 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 16
   PEEP: 5 cmH2O
   FiO2: 100%
   PIP: 31 cmH2O
   Plateau: 19 cmH2O
   Compliance: 39.3 cmH2O/mL
   SpO2: 88%
   ABG: 7.30/40/65/21/-5
   PaO2 / FiO2: 65
   Physical Examination
   VS: T=97.5  BP=91/52  HR=61  RR=19  O2 sat= 95%
   GEN: Intubated, sedated, but occasionally opening eyes and moving limbs
   HEENT: AT/NC, anicteric, PERRLA, EOMI, ET tube in place
   NECK: no JVD
   CV: reg rate nl S1S2 no m/r/g
   PULM: coarse breath sounds anteriorly, good air movement and lung
   expansion
   BACK: midline low back dressing c/d/i with surrounding ecchymosis
   ABD: soft obese NTND typamic, normoactive BS
   EXT: warm, dry tr pedal edema
   NEURO: sedated, intubated, otherwise unable to asses
   Labs / Radiology
   245 K/uL
   10.2 g/dL
   199 mg/dL
   1.9 mg/dL
   21 mEq/L
   4.4 mEq/L
   42 mg/dL
   96 mEq/L
   133 mEq/L
   31.0 %
   9.7 K/uL
        [image002.jpg]
                             [**2133-5-7**]  03:54 AM
                             [**2133-5-7**]  03:58 PM
                             [**2133-5-8**]  01:31 PM
   WBC
   9.7
   Hct
   31.0
   Plt
   245
   Cr
   1.9
   1.9
   TCO2
   20
   Glucose
   108
   199
   Other labs: PT / PTT / INR:14.5/30.6/1.3, Differential-Neuts:83.3 %,
   Lymph:9.8 %, Mono:5.9 %, Eos:0.7 %, Lactic Acid:4.3 mmol/L, Ca++:8.3
   mg/dL, Mg++:2.1 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   ASSESSMENT AND PLAN:
   79 y/o Russian-speaking M w/ DM, CRI, HTN, hyperlipidemia, lumbar
   stenosis s/p elective L3-S1 laminectomy/left L3-4 discectomy on [**5-4**]
   complicated by peri-op NSTEMI.
   .
   #CAD - peri-op NSTEMI (peak CK 4918 MB 74 on [**5-4**]), Pt initially unable
   to receive anticoag w/ heparin/plavix given risk of anti-coagulation
   post-op from neuro surgery procedure. (contraindicated x 1 week
   post-op). The patient was started on ASA 325mg and BB titrated up.
   ok);  Initially deferred cardiac cath and risk for periprocedural
   complication that could warrant anticoagulation despite EKG changes;
   ECHO on [**5-4**] showed normal biventricular cavity sizes with preserved
   global and regional biventricular systolic function. Patient initially
   transferred to CCU for transient hypotension that was fluid
   responsive.  Possible cardiogenic shock vs automonic dysfunction vs
   hypovolemia.  Code blue called this afternoon when patient found down
   on the ground unresponsive in possible PEA arrest. Patient regained
   pulse and sinus rhythm after 1-2 minutes of CPR without shocks or
   intravenous medications.  12-lead EKG shows unchanged ST depressions in
   lateral leads.  Pt initially  very hypoxic on 100% FiO2 on arrival to
   CCU with CXR showing worsening pulmonary edema.
   - f/u final results of repeat ECHO
   - bilateral LENIs to r/o DVT, given Cr of 2.0/contraindication of CTA
   - Discuss with neurosurg re: anticoagulation given possibility of
   on-going cardiac ischemia
   - Cycle cardiac enzymes until peak
   - maintain MAP >60 with Dopamin as needed, though will hold off on
   pressors at the moment since patient
s transient hypotension seemed
   related to propofol infusion; pressures improved on fentanyl/midazolam
   gtt for sedation
   - cont full-dose ASA, high-dose statin
   - continue metorprolol to 12.5 TID
   .
   #PUMP - preserved systolic fxn & no WMA on TTE [**5-4**]. Repeat ECHO final
   read pending.
   - f/u repeat ECHO
   -cont monitor for s/sx CHF while giving IVF
   .
   #RHYTHM - SR, no known h/o arrhythmia
   -telemetry during code showed bradycardic rhythm prior to asystolic
   pause, then tachycardic immediately after consistent with possible
   vagal event in setting of patient having a BM prior to LOC
   -continue to monitor on telemetry
   .
   # PULM:  Respiratory Failure s/p intubation peri-code
   -          Patient intubated for airway protection; wean off ventilator
   as tolerated
   -          CXR demonstrating pulmonary edema
   -          IV Lasix for net negative fluid balance given the above
   .
   #Post-op/narcotic ileus - likely cause of N/V given hypoactive BS;
   unlikely to represent SBO as patient had a BM on the floor today
   - limit narcotics
   -bowel regimen
   .
   #s/p lumbar spine surgery - pain well-controlled
   -appreciate neurosurg involvement
   -cont gabapentin
   -standing tylenol
   -oxycodone prn
   .
   #CRI - Cr 1.9 today and trending up. Could be attributable to volume
   depletion/prerenal azotemia given exam & hyponatremia/hypochloremia
   - IVF
   - urine lytes
   - avoid NSAIDs
   - renally dose meds and avoid nephrotoxins
   .
   #DM - well-controlled
   -cont basal NPH and Novolin, sliding scale insulin
   .
   #HTN - BP well-controlled
   -decrease metoprolol to 12.5mg for now given hypotension
   - hold imdur
   -hold HCTZ to allow room for uptitration of BB
   .
   #BPH
   -cont finasteride
   .
   #F/E/N
   -HH/DM diet
   .
   #PPx - SQH, PPI, bowel regimen
   .
   #Code status - FULL CODE
   .
   #Contact: [**Name (NI) 6417**] (Son) [**Telephone/Fax (1) 6418**] (C)/ [**Telephone/Fax (1) 6419**] (home)
   .
   DISPO: CCU for now
   ------ Protected Section ------
   Cardiliology fellow-
   Pt well known to us from recent  transfer; 70yo M w/ Dm, CRI s/p recent
   spinal surgery (laminectomy) with postop STD/hypotension, brief prior
   stay in CCU. He returns with symptomatic bradycardia requiring CPR and
   intubation. TTE shows more prominent inferior posterior wall motion
   abnormalities, with unchanged ST depressions across the precordium on
   ECG. The precipitating events were possibly vagal in nature, as it was
   around the time of going to the bathroom. However, he will eventually
   need cardiac catheterization. We will continue ASA, and start heparin
   if cleared by neurosurgery, and plan for cath when possible and with
   improvement of his renal function. He has self extubated,and we will
   diureses as necessary for pulmonary interstitial edema. The balance of
   the plan per CCU housestaff note above.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 2386**], MD
   on:[**2133-5-9**] 08:11 ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   Nothing to add
   Physical Examination
   Nothing to add
   Medical Decision Making
   Nothing to add
   Total time spent on patient care: 60 minutes of critical care time.
   Additional comments:
   cardiac arrest, respiratory failure
   ------ Protected Section Addendum Entered By:[**Name (NI) 862**] [**Name (NI) 3213**],MD
   on:[**2133-5-9**] 08:26 ------

2133-05-09 07:44:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2133-5-8**]:
   -ECHO showed extensive inferior and posterior wall contractile
   dysfunction.  This better explains pulm edema on CXR.
   - CXR: pulm edema, widened mediastinum which rads felt could be due to
   plump veins in setting of poor systolic output
   - Received 20 IV lasix o/n: neg 1L as of this am. Given another dose of
   lasix 60 mg at 0600
   - Plan is for ccath on Mon
   - Self extubated, resp status remained stable on NRB
   - Started on Heparin gtt
   - Desats when NRB comes off
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2133-5-8**] 09:42 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2133-5-9**] 06:55 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2133-5-9**] 07:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.7
C (98
   HR: 79 (68 - 117) bpm
   BP: 98/52(62) {63/38(44) - 136/85(96)} mmHg
   RR: 18 (12 - 24) insp/min
   SpO2: 98%
   Heart rhythm: 1st AV (First degree AV Block)
             Total In:
                                                                    208 mL
                                                                     69 mL
   PO:
                                                                    120 mL
             TF:
   IVF:
                                                                     88 mL
                                                                     69 mL
   Blood products:
   Total out:
                                                                  1,030 mL
                                                                    420 mL
   Urine:
                                                                  1,030 mL
                                                                    420 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -822 mL
                                                                   -351 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   Ventilator mode: Standby
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 9 (9 - 9) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 100%
   PIP: 28 cmH2O
   Plateau: 23 cmH2O
   Compliance: 30.6 cmH2O/mL
   SpO2: 98%
   ABG: 7.30/40/65/24/-5
   PaO2 / FiO2: 65
   Physical Examination
   GEN: NAD, weak and fatigued appearing
   HEENT: AT/NC, anicteric, PERRLA, EOMI, MMM
   NECK: no JVD
   CV: reg rate nl S1S2 no m/r/g
   PULM: poor inspiratory effort CTAB
   BACK: midline low back dressing c/d/i
   ABD: soft obese NTND typamic, normoactive BS
   EXT: warm, dry tr pedal edema
   NEURO: AA&O3, interacting appropriately, limited english, but able to
   communicate
   Labs / Radiology
   266 K/uL
   8.5 g/dL
   114 mg/dL
   2.2 mg/dL
   24 mEq/L
   4.2 mEq/L
   57 mg/dL
   100 mEq/L
   137 mEq/L
   25.1 %
   11.2 K/uL
        [image002.jpg]
                             [**2133-5-7**]  03:54 AM
                             [**2133-5-7**]  03:58 PM
                             [**2133-5-8**]  01:31 PM
                             [**2133-5-8**]  02:08 PM
                             [**2133-5-8**]  09:53 PM
                             [**2133-5-9**]  05:37 AM
   WBC
   9.7
   15.2
   11.2
   Hct
   31.0
   28.3
   25.1
   Plt
   245
   311
   266
   Cr
   1.9
   1.9
   2.1
   2.2
   TropT
   1.48
   1.85
   1.88
   TCO2
   20
   Glucose
   108
   199
   180
   114
   Other labs: PT / PTT / INR:15.8/150.0/1.4, CK / CKMB /
   Troponin-T:686/27/1.88, Differential-Neuts:79.0 %, Band:1.0 %,
   Lymph:14.0 %, Mono:6.0 %, Eos:0.0 %, Lactic Acid:4.3 mmol/L, Ca++:8.3
   mg/dL, Mg++:2.2 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   ASSESSMENT AND PLAN:
   79 y/o Russian-speaking M w/ DM, CRI, HTN, hyperlipidemia, lumbar
   stenosis s/p elective L3-S1 laminectomy/left L3-4 discectomy on [**5-4**]
   complicated by peri-op NSTEMI.
   .
   #CAD: ECHO showed extensive inferior and posterior wall contractile
   dysfunction likely indicative of continued ischemia. Started on heparin
   gtt and plan is for c. cath on Monday. Neurosurgery informed of
   starting heparin and was in agreement with this decision.  Currently CP
   free and hemodynamically stable.
   - Cycle cardiac enzymes until peak
   - maintain MAP >60
   - cont full-dose ASA, high-dose statin
   - continue metorprolol to 12.5 TID
   - cont heparin gtt
   - pain meds as below
    .
   #PUMP
 EF now 35-40% reduced from 55% on [**2133-5-6**] likely related to
   ischemia.  CXR demonstrated pulm edema. Pt diureses o/n as is ~ 1L neg.
   - cont diuresis for I/O goal -1.5 to 2l
   - plan for c cath Mon as per above
   .
   #RHYTHM - SR, no known h/o arrhythmia
   -continue to monitor on telemetry
   .
   # PULM:  Pt self extubated yesterday afternoon. Resp status stable post
   extubation though hypoxic to 80
s off NRB. Likely hypoxia [**1-5**] pulm
   edema.
   -          Goal O2 sats >92%
   -          Cont diuresis
   -          PM lytes
   .
   #s/p lumbar spine surgery - pain well-controlled . Neuro [**Doctor First Name **] plans to
   cont following
   -appreciate neurosurg involvement
   -cont gabapentin
   -standing tylenol
   -oxycodone prn
   .
   #CRI - Cr 2.2 today and trending up. Likely related to poor forward
   flow and subsequent hypoperfusion.
   -Diuresis should help to improve forward flow.
   - Plan for c cath
   - avoid NSAIDs
   - renally dose meds and avoid nephrotoxins
   .
   #DM - well-controlled
   -cont basal NPH and Novolin, sliding scale insulin
   .
   #HTN
 BP remains stable
   - cont  metoprolol to 12.5mg
   - hold imdur
   -hold HCTZ to allow room for uptitration of BB
   .
   #BPH
   -cont finasteride
   .
   #F/E/N
   -HH/DM diet
   .
   #PPx - SQH, PPI, bowel regimen
   .
   #Code status - FULL CODE
   .
   #Contact: [**Name (NI) 6417**] (Son) [**Telephone/Fax (1) 6418**] (C)/ [**Telephone/Fax (1) 6419**] (home)
   .
   DISPO: CCU for now
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   Nothing to add
   Physical Examination
   Nothing to add
   Medical Decision Making
   Nothing to add
   Total time spent on patient care: 40 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 862**] [**Name (NI) 3213**],MD
   on:[**2133-5-9**] 09:11 ------

2133-05-10 06:22:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   ECG performed improved ST-depressions
   CXR: slight improvement in edema. Consistent with CHF and possible
   infection (tx with levoflox)
   CE: CK peaked at 922, MB 31 (CK trending down 642, but Trop 1.91 inc in
   the setting of ARF)
   PM lytes: cre stable 2.1
   I/O: 8pm -1.5L
   Hypoglycemic: FS 59, decreased NPH qPM from 14 to 10 (PM dose held
   overnight for cont hypoglycemia and poor po intake). 70/30 decreased to
   50 from 60. [**Month (only) **] ISS as well
   7PM and 2AM -- pt with acute episodes of LOC.
   Once in bed pt desat, became cyanotic, and unresponsive, Code was
   called, but patient returned to baseline within 20s. Pt ate soup with
   meat immediately prior to the episode. ?choked, ordered soft diet and
   S&S eval
   2nd episode in chair (in the process of being reclined). Lasted [**12-5**]
   minutes. Turned [**Doctor Last Name 988**], appeared to stop breathing, pt endorsed feeling
   dizzy. Reverted spontaneously. No findings on neuro exam, cardiac
   monitor. Checking lactate, head CT.
   ABG: 7.43/44/117/30 on NRB
   lactate 1.9
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2133-5-8**] 09:42 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2133-5-9**] 06:55 AM
   Dextrose 50% - [**2133-5-9**] 02:35 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2133-5-10**] 06:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.2
C (97.2
   HR: 88 (73 - 90) bpm
   BP: 89/45(54) {78/36(26) - 112/78(85)} mmHg
   RR: 34 (16 - 34) insp/min
   SpO2: 89%
   Heart rhythm: 1st AV (First degree AV Block)
             Total In:
                                                                    400 mL
                                                                    386 mL
   PO:
             TF:
   IVF:
                                                                    350 mL
                                                                    146 mL
   Blood products:
   Total out:
                                                                  2,010 mL
                                                                    440 mL
   Urine:
                                                                  2,010 mL
                                                                    440 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,610 mL
                                                                    -54 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   SpO2: 89%
   ABG: 7.43/44/117/31/4
   Physical Examination
   GEN: NAD, weak and fatigued appearing
   HEENT: AT/NC, anicteric, PERRLA, EOMI, MMM
   CV: reg rate nl S1S2 no m/r/g
   PULM: poor inspiratory effort, + bibasilar crackles, + wheeze on exp
   BACK: midline staples, no bleeding,puss, drainage. +ecchymosis along
   lower back
   ABD: soft obese NTND typamic, normoactive BS
   EXT: warm, dry tr pedal edema
   NEURO: AA&O3, interacting appropriately, limited english, but able to
   communicate
   Labs / Radiology
   329 K/uL
   9.4 g/dL
   79 mg/dL
   2.1 mg/dL
   31 mEq/L
   3.9 mEq/L
   52 mg/dL
   98 mEq/L
   137 mEq/L
   28.6 %
   10.7 K/uL
        [image002.jpg]
                             [**2133-5-7**]  03:54 AM
                             [**2133-5-7**]  03:58 PM
                             [**2133-5-8**]  01:31 PM
                             [**2133-5-8**]  02:08 PM
                             [**2133-5-8**]  09:53 PM
                             [**2133-5-9**]  05:37 AM
                             [**2133-5-9**]  01:25 PM
                             [**2133-5-10**]  02:26 AM
                             [**2133-5-10**]  02:48 AM
   WBC
   9.7
   15.2
   11.2
   10.7
   Hct
   31.0
   28.3
   25.1
   28.6
   Plt
   245
   311
   266
   329
   Cr
   1.9
   1.9
   2.1
   2.2
   2.1
   2.1
   TropT
   1.48
   1.85
   1.88
   1.91
   1.86
   TCO2
   20
   30
   Glucose
   108
   199
   180
   114
   83
   79
   Other labs: PT / PTT / INR:15.3/77.8/1.3, CK / CKMB /
   Troponin-T:437/14/1.86, Differential-Neuts:82.3 %, Band:1.0 %,
   Lymph:9.9 %, Mono:6.2 %, Eos:1.5 %, Lactic Acid:1.5 mmol/L, Ca++:8.4
   mg/dL, Mg++:2.2 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
 .H/O DIABETES MELLITUS (DM), TYPE I
 ALTERATION IN ELIMINATION RELATED TO CONSTIPATION
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 FALL(S)
 HYPOTENSION (NOT SHOCK)
   79 y/o Russian-speaking M w/ DM, CRI, HTN, hyperlipidemia, lumbar
   stenosis s/p elective L3-S1 laminectomy/left L3-4 discectomy on [**5-4**]
   complicated by peri-op NSTEMI.
   .
   #CAD: ECHO showed extensive inferior and posterior wall contractile
   dysfunction likely indicative of continued ischemia. Started on heparin
   gtt and plan is for c. cath on Monday. Neurosurgery informed of
   starting heparin and was in agreement with this decision.  Currently CP
   free and hemodynamically stable. CK peaked at 922, MB 31
   - NPO after midnight for cath
   - mucomyst and hydration prior to cath
   - maintain MAP >60
   - cont full-dose ASA, high-dose statin
   - continue metorprolol to 12.5 TID
   - cont heparin gtt
   - pain meds as below
    .
   #PUMP
 EF now 35-40% reduced from 55% on [**2133-5-6**] likely related to
   ischemia.  CXR demonstrated pulm edema. Pt diureses o/n as is ~ 1.5L
   neg.
   - cont diuresis for I/O goal -1L , lasix 60mg IV
   - plan for c cath Mon as per above
   .
   #RHYTHM - SR, no known h/o arrhythmia
   -continue to monitor on telemetry
   .
   #. LOC: Pt with two episodes of LOC. Pt becomes hypoxic, dusky, and
   unrepsonsive for several seconds.  Pt is fatigued afterwards, but no
   frank post-ictal period. First episode was concerning for choking as
   coincided with meal, but second episode not consistent. ABG: ABG:
   7.43/44/117/30 on NRB and CXR showed improved edema. Pt BP and HR
   reamined stable. No events on tele. DDx: seizure vs other neurologic
   process vs aspiration
   - CT head
   - EEG
   -  S&W eval
   - neuro consult
   # PULM:  Pt cont to require NRB. Resp status stable, hypoxic to 80
   off NRB. Likely hypoxia [**1-5**] pulm edema.
   -  Goal O2 sats >92%
   -  Cont diuresis as above
   -  PM lytes
   -  repeat CXR tomorrow AM
   - standing nebs
   .
   #s/p lumbar spine surgery - pain well-controlled . Neuro [**Doctor First Name **] plans to
   cont following
   -appreciate neurosurg involvement
   -cont gabapentin
   -standing tylenol
   -oxycodone prn
   .
   #CRI - Cr 2.1 and stable. Likely related to poor forward flow and
   subsequent hypoperfusion.
   -Diuresis should help to improve forward flow.
   - Plan for c cath
   - avoid NSAIDs
   - renally dose meds and avoid nephrotoxins
   - re-check urine lytes
   .
   #DM
pt episodes of hypoglycemia. Decreased NPH to 10 and 70/30 to 50.
   Pt with poor po intake.
   -cont basal NPH and Novolin, sliding scale insulin
   .
   #HTN
 BP remains stable, with episodes of hypotension
   - cont  metoprolol to 12.5mg
   - hold imdur
   -hold HCTZ to allow room for uptitration of BB
   .
   #BPH
   -cont finasteride
   .
   #F/E/N
   -HH/DM diet
   - soft diet
   - Speech and Swallow eval
   .
   #PPx - SQH, PPI, bowel regimen
   .
   #Code status - FULL CODE
   .
   #Contact: [**Name (NI) 6417**] (Son) [**Telephone/Fax (1) 6418**] (C)/ [**Telephone/Fax (1) 6419**] (home)
   .
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2133-5-9**] 07:16 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   Nothing to add
   Physical Examination
   Nothing to add
   Medical Decision Making
   Nothing to add
   Total time spent on patient care: 30 minutes.
   Additional comments:
   loss of consciousness, MI, s/p cardiac arrest
   ------ Protected Section Addendum Entered By:[**Name (NI) 862**] [**Name (NI) 3213**],MD
   on:[**2133-5-10**] 10:02 ------

2133-05-11 06:40:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Pt had small episode of hemoptysis w/ sputum - repeated CXR -
   official report: "more focal opacity in the left upper lung that might
   be consistent with infection superimposed on
   pulmonary edema... other possibility to explain parenchymal
   abnormalities might be parenchymal hemorrhage"
   - Neuro consulted: w/ russian interpreter they think story c/w
   orthostatic episodes - "not c/w syncope or sz"
   - no speech and swallow eval done on weekends
   - No ICH on CT head, EEG not done yet
   - Gabapentin renally dosed from 800 TID to 300mg q24
   - Pt had worsening orthopnea and incr 02 requirement - now on 4L/NC w/
   NRB mask. At this time , ~7pm comfortable, I/O -1L --> gave antoher
   lasix 60 IV x1.
   - No BM gave dulcolax suppository -> had BM that was grossly guiac
   positive
   - Pt agititated around midnight, resolved with his ambien 5
   - got mucomyst and ordered for AM precath hydration
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2133-5-8**] 09:42 PM
   Infusions:
   Heparin Sodium - 550 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2133-5-11**] 06:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36.1
C (97
   HR: 89 (69 - 91) bpm
   BP: 90/72(77) {69/31(42) - 120/72(77)} mmHg
   RR: 28 (14 - 28) insp/min
   SpO2: 94%
   Heart rhythm: 1st AV (First degree AV Block)
             Total In:
                                                                  1,542 mL
                                                                    102 mL
   PO:
                                                                    840 mL
             TF:
   IVF:
                                                                    462 mL
                                                                    102 mL
   Blood products:
   Total out:
                                                                  2,880 mL
                                                                  1,100 mL
   Urine:
                                                                  2,680 mL
                                                                  1,100 mL
   NG:
   Stool:
                                                                    200 mL
   Drains:
   Balance:
                                                                 -1,338 mL
                                                                   -998 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Non-rebreather
   SpO2: 94%
   ABG: ///27/
   Physical Examination
   GEN: NAD, weak and fatigued appearing
   HEENT: AT/NC, anicteric, PERRLA, EOMI, MMM
   CV: reg rate nl S1S2 no m/r/g
   PULM: poor inspiratory effort, + bibasilar crackles, + wheeze on exp
   BACK: midline staples, no bleeding,puss, drainage. +ecchymosis along
   lower back
   ABD: soft obese NTND typamic, normoactive BS
   EXT: warm, dry tr pedal edema
   NEURO: AA&O3, interacting appropriately, limited english, but able to
   communicate
   Labs / Radiology
   329 K/uL
   9.4 g/dL
   66 mg/dL
   1.8 mg/dL
   27 mEq/L
   4.7 mEq/L
   46 mg/dL
   101 mEq/L
   140 mEq/L
   28.6 %
   10.7 K/uL
        [image002.jpg]
                             [**2133-5-7**]  03:54 AM
                             [**2133-5-7**]  03:58 PM
                             [**2133-5-8**]  01:31 PM
                             [**2133-5-8**]  02:08 PM
                             [**2133-5-8**]  09:53 PM
                             [**2133-5-9**]  05:37 AM
                             [**2133-5-9**]  01:25 PM
                             [**2133-5-10**]  02:26 AM
                             [**2133-5-10**]  02:48 AM
                             [**2133-5-10**]  06:11 PM
   WBC
   9.7
   15.2
   11.2
   10.7
   Hct
   31.0
   28.3
   25.1
   28.6
   Plt
   245
   311
   266
   329
   Cr
   1.9
   1.9
   2.1
   2.2
   2.1
   2.1
   1.8
   TropT
   1.48
   1.85
   1.88
   1.91
   1.86
   TCO2
   20
   30
   Glucose
   108
   199
   180
   114
   83
   79
   66
   Other labs: PT / PTT / INR:15.3/77.8/1.3, CK / CKMB /
   Troponin-T:437/14/1.86, Differential-Neuts:82.3 %, Band:1.0 %,
   Lymph:9.9 %, Mono:6.2 %, Eos:1.5 %, Lactic Acid:1.5 mmol/L, Ca++:8.5
   mg/dL, Mg++:2.2 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   79 y/o Russian-speaking M w/ DM, CRI, HTN, hyperlipidemia, lumbar
   stenosis s/p elective L3-S1 laminectomy/left L3-4 discectomy on [**5-4**]
   complicated by peri-op NSTEMI.
   .
   #CAD: ECHO showed extensive inferior and posterior wall contractile
   dysfunction likely indicative of continued ischemia. Started on heparin
   gtt and plan is for c. cath on Monday. Neurosurgery informed of
   starting heparin and was in agreement with this decision.  Currently CP
   free and hemodynamically stable. CK peaked at 922, MB 31
   - NPO after midnight for cath
   - mucomyst and hydration prior to cath
   - maintain MAP >60
   - cont full-dose ASA, high-dose statin
   - continue metorprolol to 12.5 TID
   - cont heparin gtt
   - pain meds as below
    .
   #PUMP
 EF now 35-40% reduced from 55% on [**2133-5-6**] likely related to
   ischemia.  CXR demonstrated pulm edema. Pt diureses o/n as is ~ 1.5L
   neg.
   - cont diuresis for I/O goal -1L , lasix 60mg IV
   - plan for c cath Mon as per above
   .
   #RHYTHM - SR, no known h/o arrhythmia
   -continue to monitor on telemetry
   .
   #. LOC: Pt with two episodes of LOC. Pt becomes hypoxic, dusky, and
   unrepsonsive for several seconds.  Pt is fatigued afterwards, but no
   frank post-ictal period. First episode was concerning for choking as
   coincided with meal, but second episode not consistent. ABG: ABG:
   7.43/44/117/30 on NRB and CXR showed improved edema. Pt BP and HR
   reamined stable. No events on tele. DDx: seizure vs other neurologic
   process vs aspiration
   - CT head
   - EEG
   -  S&W eval
   - neuro consult
   # PULM:  Pt cont to require NRB. Resp status stable, hypoxic to 80
   off NRB. Likely hypoxia [**1-5**] pulm edema.
   -  Goal O2 sats >92%
   -  Cont diuresis as above
   -  PM lytes
   -  repeat CXR tomorrow AM
   - standing nebs
   .
   #s/p lumbar spine surgery - pain well-controlled . Neuro [**Doctor First Name **] plans to
   cont following
   -appreciate neurosurg involvement
   -cont gabapentin
   -standing tylenol
   -oxycodone prn
   .
   #CRI - Cr 2.1 and stable. Likely related to poor forward flow and
   subsequent hypoperfusion.
   -Diuresis should help to improve forward flow.
   - Plan for c cath
   - avoid NSAIDs
   - renally dose meds and avoid nephrotoxins
   - re-check urine lytes
   .
   #DM
pt episodes of hypoglycemia. Decreased NPH to 10 and 70/30 to 50.
   Pt with poor po intake.
   -cont basal NPH and Novolin, sliding scale insulin
   .
   #HTN
 BP remains stable, with episodes of hypotension
   - cont  metoprolol to 12.5mg
   - hold imdur
   -hold HCTZ to allow room for uptitration of BB
   .
   #BPH
   -cont finasteride
   .
   #F/E/N
   -HH/DM diet
   - soft diet
   - Speech and Swallow eval
   .
   #PPx - SQH, PPI, bowel regimen
   .
   #Code status - FULL CODE
   .
   #Contact: [**Name (NI) 6417**] (Son) [**Telephone/Fax (1) 6418**] (C)/ [**Telephone/Fax (1) 6419**] (home)
   .
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2133-5-9**] 07:16 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU
   1. IV access: Peripheral line Location: Left, Date inserted: [**2133-5-4**]
   Order date: [**5-8**] @ 1337
   20. Haloperidol 0.5 mg IV ONCE PRN: agitation, MRx1 Duration: 1 Doses
   Order date: [**5-11**] @ 0412
   2. IV access: Peripheral line Order date: [**5-8**] @ 1337
   21. Heparin IV Sliding Scale
   Order date: [**5-8**] @ 1449
   3. IV access: Peripheral line Order date: [**5-8**] @ 1337
   22. Insulin SC  (per Insulin Flowsheet)
         Sliding Scale & Fixed Dose Order date: [**5-9**] @ 2316

2133-05-12 07:02:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 CARDIAC CATH - At [**2133-5-11**] 03:00 PM
   returned from diagnostic cath
   - C.cath: 3V disease,
   LCMA no dz,
   LAD 90% stenosis at proximal and mid-vessel.
   LCx has 90% ostial stenosis and 95% at mid segment.
   RCA total occlusion. Distal RCA fill by collateralls
   - CT [**Doctor First Name **] contact[**Name (NI) **] via email
   EEG: mild encephalopathy with no epileptiform discharges
   I/O check 1800: -1L (no addtl lasix given post cath)
   Post Cath Check: looked fine
   Restarted Heparin gtt
   Delirious/agitated overnight required 1mg IV haldol
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 800 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2133-5-11**] 09:45 AM
   Haloperidol (Haldol) - [**2133-5-12**] 01:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2133-5-12**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 35.6
C (96.1
   HR: 63 (63 - 91) bpm
   BP: 100/42(55) {83/32(41) - 109/61(68)} mmHg
   RR: 19 (13 - 31) insp/min
   SpO2: 90%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 76 kg (admission): 71 kg
             Total In:
                                                                    894 mL
                                                                    138 mL
   PO:
                                                                    360 mL
                                                                     90 mL
   TF:
   IVF:
                                                                    534 mL
                                                                     48 mL
   Blood products:
   Total out:
                                                                  3,265 mL
                                                                      0 mL
   Urine:
                                                                  3,265 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,371 mL
                                                                    138 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 90%
   ABG: ///31/
   Physical Examination
   GEN: NAD, weak and fatigued appearing
   HEENT: AT/NC, anicteric, PERRLA, EOMI, MMM
   CV: reg rate nl S1S2 no m/r/g
   PULM: poor inspiratory effort, + bibasilar crackles, + wheeze on exp
   BACK: midline staples, no bleeding,puss, drainage. +ecchymosis along
   lower back
   ABD: soft obese NTND typamic, normoactive BS
   EXT: warm, dry tr pedal edema
   NEURO: AA&O3, interacting appropriately, limited english, but able to
   communicate
   Labs / Radiology
   396 K/uL
   9.9 g/dL
   134 mg/dL
   1.7 mg/dL
   31 mEq/L
   3.6 mEq/L
   36 mg/dL
   94 mEq/L
   138 mEq/L
   29.3 %
   11.0 K/uL
        [image002.jpg]
                             [**2133-5-8**]  01:31 PM
                             [**2133-5-8**]  02:08 PM
                             [**2133-5-8**]  09:53 PM
                             [**2133-5-9**]  05:37 AM
                             [**2133-5-9**]  01:25 PM
                             [**2133-5-10**]  02:26 AM
                             [**2133-5-10**]  02:48 AM
                             [**2133-5-10**]  06:11 PM
                             [**2133-5-11**]  05:47 AM
                             [**2133-5-12**]  04:15 AM
   WBC
   15.2
   11.2
   10.7
   12.7
   11.0
   Hct
   28.3
   25.1
   28.6
   29.7
   29.3
   Plt
   [**Telephone/Fax (3) 6525**]91
   396
   Cr
   2.1
   2.2
   2.1
   2.1
   1.8
   1.6
   1.7
   TropT
   1.48
   1.85
   1.88
   1.91
   1.86
   TCO2
   20
   30
   Glucose
   180
   114
   83
   79
   66
   140
   134
   Other labs: PT / PTT / INR:15.5/53.1/1.4, CK / CKMB /
   Troponin-T:437/14/1.86, Differential-Neuts:82.3 %, Band:1.0 %,
   Lymph:9.9 %, Mono:6.2 %, Eos:1.5 %, Lactic Acid:1.5 mmol/L, Ca++:8.1
   mg/dL, Mg++:2.0 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   79 y/o Russian-speaking M w/ DM, CRI, HTN, hyperlipidemia, lumbar
   stenosis s/p elective L3-S1 laminectomy/left L3-4 discectomy on [**5-4**]
   complicated by peri-op NSTEMI.
   .
   #CAD: Cath yesterday showed 3VD. Plan for CABG by CT-surgery
   - appreciate surgery recs
   - likely surgery on Firday
   - maintain MAP >60
   - cont full-dose ASA, high-dose statin
   - continue metorprolol to 12.5 TID
   - discuss with surgery regarding stopping heparin gtt
   - f/u carotid u/s
   - pain meds as below
    .
   #PUMP
 EF now 35-40% reduced from 55% on [**2133-5-6**] likely related to
   ischemia.  Pt negative 1.L overnight. {t given 60mg IV lasix prior to
   cath, but no additional post-caht. Pt was auto-diuresis. CXR improved
   this AM.
   - cont goal of 500cc-1L, lasix prn
   .
   #RHYTHM - SR, no known h/o arrhythmia
   -continue to monitor on telemetry
   .
   #. LOC/delerium: No further episodes. Neurology believes [**1-5**] positional
   orthostatic changes, and believe sz unlikely. EEG showed mild
   encephalopathy, but no seizure activity.  CT head negative. Gabapentin
   dose could have been contributing
 now renally dosed at 300 QD. Pt
   with episode of delirium esp in the evening with desat. Possible sleep
   apnea
   - trial of CPAP
   - f/u neuro recs
   - trazadone qhs and haldol IV or seroquel prn for agitation
   - cont to renally dose neurontin
   # PULM:  Right sided pleural eff appears worse today. Sats remains
   stable. Pt finished 5 day course of levoflox for CAP.
   -  Goal O2 sats >92%
   -  Cont diuresis as above
   - standing nebs
   .
   #s/p lumbar spine surgery - pain well-controlled . Neuro [**Doctor First Name **] plans to
   cont following
   -appreciate neurosurg involvement
   -cont gabapentin
   -standing tylenol
   -oxycodone prn
   .
   #CRI
 Cr now 1.7 and cont  [**1-5**] to decreased forward flow. Pt also
   received contrast duirng cath, will monitor.
   - avoid NSAIDs
   - renally dose meds and avoid nephrotoxins
   .
   #DM
pt episodes of hypoglycemia. Decreased NPH to 10 and 70/30 to 50.
   Pt with poor po intake.
   -cont basal NPH and Novolin, sliding scale insulin
   .
   #HTN
 BP remains stable, with episodes of hypotension
   - cont  metoprolol to 12.5mg
   - hold imdur
   -hold HCTZ to allow room for uptitration of BB
   .
   #BPH
   -cont finasteride
   .
   FEN:  HH/DM diet  ; Speech and Swallow eval normal
   PPx - SQH, PPI, bowel regimen
   Code status - FULL CODE
   .
   #Contact: [**Name (NI) 6417**] (Son) [**Telephone/Fax (1) 6418**] (C)/ [**Telephone/Fax (1) 6419**] (home)
   DISPO: call out to floor
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2133-5-10**] 08:54 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: CCU
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   nothing to add
   Physical Examination
   nothing to add
   Medical Decision Making
   nothing to add
   Total time spent on patient care: 40 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 862**] [**Name (NI) 3213**],MD
   on:[**2133-5-12**] 10:48 ------